US07875636B2
To a solution of N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}-2-methylpropane-2-sulfinamide (3.84 g, 11.3 mmol) and methanol (50 ml) was added 2.0N HCl in ether (45.1 ml, 90 mmol). The reaction was stirred for an hour and concentrated to give (2S)-2-amino-2-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethanol dihydrochloride as a white foam (3.49 g, 100%). MS (Electrospray): m/z 237.1 (M+H). To a 100 ml round bottom flask equipped with a magnetic stir bar were added 4-cyclopropylphenylacetic acid (1.79 g, 10.2 mmol), (2S)-2-amino-2-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethanol dihydrochloride (3.14 g, 10.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.34 g, 12.2 mmol), 1-hydroxy-7-azabenzotriazole (1.66 g, 12.2 mmol) and triethylamine (4.25 ml, 30.5 mmol) into 68 ml of dimethylformamide. The resulting solution was stirred at room temperature for 16 hours. The reaction mixture was washed with brine (3×50 ml) and extracted with ethyl acetate (3×70 ml). The combined organic layers were dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuum to give an oil. Purification by flash chromatography (SiO2, 50-100% EtOAc/Hexanes, gradient) gave 2-(4-cyclopropylphenyl)-N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide as a light yellow solid (3.00 g, 75%); 1H NMR (400 MHz, CD3OD) δ 8.28 (d, J=2.4 Hz, 1H), 7.42 (dd, J=2.4 Hz and 6.8 Hz, 1H), 7.29 (d, J=7.2 Hz, 1H), 7.16 (d, J=6.4 Hz, 2H), 7.01 (d, J=6.4 Hz, 2H), 5.07-4.99 (m, 1H), 4.63 (q, J=6.4 Hz, 2H), 3.82-3.79 (m, 2H), 3.54 (s, 2H), 1.89-1.84 (m, 1H), 0.92 (m, 2H), 0.64 (m, 2H); MS (Electrospray): m/z 395.2 (M+H).

reactant | N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}-2-methylpropane-2-sulfinamide | 11.3 mmol, 3.84 g | OC[C@H](C1=NC=C(C=C1)OCC(F)(F)F)NS(=O)C(C)(C)C | C13H19F3N2O3S
reactant | HCl | 2.0N | Cl | ClH
reactant | ether | 90 mmol, 45.1 ml | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | (2S)-2-amino-2-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethanol dihydrochloride | 3.49 g, 100% | Cl.Cl.N[C@H](CO)C1=NC=C(C=C1)OCC(F)(F)F | InChI=1S/C9H11F3N2O2.2ClH/c10-9(11,12)5-16-6-1-2-8(14-3-6)7(13)4-15;;/h1-3,7,15H,4-5,13H2;2*1H/t7-;;/m1../s1
